US04639457
To a solution of 1.04 grams (0.005 mole) of benzo[5,6]cyclohepta[1,2-b]pyridin-11-one in 20 milliliters of chloroform was added 1.19 grams (0.0055 mole) of m-chloroperbenzoic acid and the resulting solution stirred at room temperature for 24 hours. At this time an additional 0.6 gram of m-chloroperbenzoic acid was added and the mixture stirred for 5 hours; thereafter, another 0.3 gram of m-chloroperbenzoic acid was added and the mixture stirred overnight. The resulting reaction mixture was then washed twice with 10 percent aqueous sodium hydroxide, twice with water and the washed solution dried over magnesium sulfate. The mixture was filtered to remove drying agent and the solvent removed under reduced pressure to obtain 0.75 gram of benzo[5,6]cyclohepta[1,2-b]pyridin-11-one N-oxide intermediate as residue.

reactant | benzo[5,6]cyclohepta[1,2-b]pyridin-11-one | 0.005 mole, 1.04 grams | N1=C2C(=CC=C1)C=CC1=C(C2=O)C=CC=C1 | C14H9NO
reactant | m-chloroperbenzoic acid | 0.0055 mole, 1.19 grams | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | m-chloroperbenzoic acid | 0.6 gram | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | m-chloroperbenzoic acid | 0.3 gram | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | chloroform | 20 milliliters | C(Cl)(Cl)Cl | CHCl3
product | benzo[5,6]cyclohepta[1,2-b]pyridin-11-one N-oxide | 0.75 gram | [N+]1(=C2C(=CC=C1)C=CC1=C(C2=O)C=CC=C1)[O-] | C14H9NO2
